US06359138B1
(1RS,2RS) and (1RS, 2SR)-2-[4-hydroxy-4-(4-methyl-benzyl)-piperidine-1-ylmethyl]-indan-1,5-diol (310 mg, 0.84 mmol) and ethanolic HCl (5 eq.) was heated in EtOAc (30 ml) at 65° C. for 1.5 hr. Distilled H2O (30 ml) and 10% NaHCO3 (30 ml) was added and the mixture shaken, the aqueous phase was further extracted with EtOAc (2×20 ml) and the combined organic extracts were washed with satd. NaCl solution (30 ml), dried (Na2SO4) and filtered. Evaporation of the solvent afforded 1-(6-hydroxy-1H-inden-2-ylmethyl)-4-(4-methyl-benzyl)-piperidin-4-ol as a beige solid (308 mg, 0.84 mmol, 100%) Mp. 154-157° C., MS m/e=350.2 (M+H+).

reactant | (1RS, 2SR)-2-[4-hydroxy-4-(4-methyl-benzyl)-piperidine-1-ylmethyl]-indan-1,5-diol | 0.84 mmol, 310 mg | OC1(CCN(CC1)CC1C(C2=CC=C(C=C2C1)O)O)CC1=CC=C(C=C1)C | C23H29NO3
reactant | HCl | 5 eq. | Cl | ClH
reactant | H2O | 30 ml | O | H2O
reactant | NaHCO3 | 30 ml | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | 1-(6-hydroxy-1H-inden-2-ylmethyl)-4-(4-methyl-benzyl)-piperidin-4-ol | 0.84 mmol, 308 mg, 100% | OC1=CC=C2C=C(CC2=C1)CN1CCC(CC1)(O)CC1=CC=C(C=C1)C | C23H27NO2
